US08426411B2
A 5 liter round bottom flask was charged with sodium 4-(ethoxycarbonyl)-3-ethyl-2-(methoxycarbonyl)cyclopenta-1,3-dienolate (316 g, 1205 mmol, Preparation #U.1), KCl (126 g, 1687 mmol, JT-Baker), AcOH (241 mL, 4218 mmol, JT-Baker), toluene (1850 mL) and water (130 mL). The reaction was heated at reflux for about 6 h then cooled to ambient temperature and added dropwise to 8% aqueous NaHCO3 (3.5 L). The resulting biphasic mixture was extracted with MTBE (2×1.5 L). The combined organic layers were washed with brine (1 L), dried over anhydrous MgSO4 and concd under reduced pressure to give 191 g of crude material that was purified by vacuum distillation (97-99° C., 0.600 mm Hg) to give ethyl 2-ethyl-4-oxocyclopent-2-enecarboxylate (160 g, 69%): 1H NMR (CDCl3) δ 6.04 (m, 1H), 4.26-4.15 (m, 2H), 3.76-3.69 (m, 1H), 2.75-2.57 (m, 2H), 2.56-2.44 (m, 2H), 1.32-1.26 (m, 3H), 1.23-1.18 (m, 3H).

reactant | sodium 4-(ethoxycarbonyl)-3-ethyl-2-(methoxycarbonyl)cyclopenta-1,3-dienolate | 1205 mmol, 316 g | C(C)OC(=O)C1=C(C(=C(C1)[O-])C(=O)OC)CC.[Na+]
reactant | KCl | 1687 mmol, 126 g | [Cl-].[K+]
reactant | AcOH | 4218 mmol, 241 mL | CC(=O)O | C2H4O2
reactant | NaHCO3 | 3.5 L | C(=O)(O)[O-].[Na+]
solvent | water | 130 mL | O | H2O
solvent | toluene | 1850 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-ethyl-4-oxocyclopent-2-enecarboxylate | 160 g, 69% | C(C)C=1C(CC(C1)=O)C(=O)OCC | C10H14O3
